US04829075
4-Chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone oxime
24.8 g (0.1 mol) of 4-chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone were refluxed for 4 hours with 10.4 g of hydroxylamine hydrochloride, 10.6 g of sodium acetate in 200 ml of ethanol and 100 ml of water, the solvent was removed in vacuo, and the crystal slurry obtained was triturated with water. 21.7 g (83%) of the title compound were obtained as colorless crystals of melting point 186°-218° C.

reactant | 4-chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone | 0.1 mol, 24.8 g | N1(N=CN=C1)C1(CC1)C(=O)C1=CC=C(C=C1)Cl | C12H10ClN3O
reactant | hydroxylamine hydrochloride | 10.4 g | Cl.NO
reactant | sodium acetate | 10.6 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 4-Chlorophenyl 1-(1, 2, 4-triazol-1-yl)-cyclopropyl ketone oxime | 21.7 g, 83% | N1(N=CN=C1)C1(CC1)C(C1=CC=C(C=C1)Cl)=NO | C12H11ClN4O
